US04053455
Hexamethylenetetramine molybdate having a 2/1 molybdenum/hexamethylenetetramine molar ratio was prepared in the presence of HCl as follows. 10 grams of hexamethylenetetramine, 14.05 grams of a 37 wt.% aqueous HCl solution, and 100 ml water were dissolved together and heated to reflux in a 500 ml round-bottomed flask equipped with a stirrer and water-cooled condenser. 24.24 grams ammonium dimolybdate was dissolved in 50 ml hot water. The second solution was added to the first solution, and a thin white precipitate formed rapidly.

reactant | HCl | Cl | ClH
reactant | hexamethylenetetramine | 10 grams | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | ammonium dimolybdate | 24.24 grams | [NH4+].[O-][Mo](=O)(=O)[O-].[O-][Mo](=O)(=O)[O-]
solvent | water | 50 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | molybdenum hexamethylenetetramine | [Mo].C1N2CN3CN1CN(C2)C3 | InChI=1S/C6H12N4.Mo/c1-7-2-9-4-8(1)5-10(3-7)6-9;/h1-6H2;
